US07842685B2
In a reactor tube was dissolved ethyl 4-pyrazolecarboxylate (0.0957 g, 0.683 mmol) methyl 4-imidazolecarboxylate (0.047 g, 0.37 mmol) in ethyl alcohol (2 mL). To this solution was added tert-butoxide (0.0656 g, 0.683 mmol) followed by 2-(4-(bromomethyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (0.150 g, 0.341 mmol) and the reaction mixture was heated to 70° C. for 90 min. The solid observed was collected by filtration, rinsed with Et2O to afford ethyl 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)-1H-pyrazole-4-carboxylate. MS (ESI) m/z: calculated: 498.2; Observed: 499.0 (M++1).

reactant | ethyl 4-pyrazolecarboxylate | 0.683 mmol, 0.0957 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | tert-butoxide | 0.683 mmol, 0.0656 g | CC(C)([O-])C
reactant | 2-(4-(bromomethyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 0.341 mmol, 0.150 g | BrCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C22H16BrFN2S
solvent | ethyl alcohol | 2 mL | C(C)O | C2H6O
product | ethyl 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)-1H-pyrazole-4-carboxylate | FC=1C=C(CN2N=CC(=C2)C(=O)OCC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C28H23FN4O2S
